US07211573B2
A solution of 2.20 g (6.28 mmol) ((6R,7S)-9-allyl-2-fluoro-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester in 120 ml dichloromethane was treated with ozone at −75° C. for 20 minutes. Methyl sulfide, 2.27 g (30.6 mmol), was added and the solution was stirred for 4.5 hours at room temperature. The solvent was distilled off under vacuum and the residue was extracted with ethylacetate/water to yield 2.05 g crude [(6R,7S)-2-fluoro-6-methyl-8-oxo-9-(2-oxo-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester, MS m/e (%): 353.2 (M+H+, 11), 297.3 (60), 253.2 (100).

reactant | ((6R,7S)-9-allyl-2-fluoro-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | 6.28 mmol, 2.20 g | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(N(C1=O)CC=C)C=C(C=C2)F)C)=O | C18H23FN2O4
reactant | ozone | O=[O+][O-] | O3
reactant | Methyl sulfide | CSC | C2H6S
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | [(6R,7S)-2-fluoro-6-methyl-8-oxo-9-(2-oxo-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester | 2.05 g | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(N(C1=O)CC=O)C=C(C=C2)F)C)=O | C17H21FN2O5
